US05929117
3-(3,4-Diethylphenyl)-3-phenylacrylonitrile was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-diethylbenzophenone (0.95 g, 4 mmol), diethylcyanomethylphosphonate (0.73 mL, 4.4 mmol) and lithium hexamethyldisilazide (3.4 mL, 4.4 mmol, 1.3M) with a reaction time of 2 hours at room temperature. The crude product was purified by flash chromatography (silica gel, 8% ethyl acetate/methylene chloride) to afford an oil which was stirred in hexane until it solidified. The resulting slurry was filtered, the solid washed with hexane, air dried and then dried in vacuo to afford 0.6 g (57%) of a mixture of the E and Z isomers as a white solid: mp 63-64° C.; 1H NMR (CDCl3) δ 7.51-6.99 (m, 16H), 5.72 (s, 2H), 2.76-2.55 (m, 8H), 1.32-1.14 (m, 12H); 13C NMR (CDCl3) δ 163.3, 144.7, 142.2, 137.3, 136.5, 130.2, 129.8, 129.6, 128.6, 128.5, 128.4, 128.3, 127.2, 126.2, 118.2, 93.9, 93.7, 25.5, 25.3, 15.2, 15.0.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-diethylbenzophenone | 4 mmol, 0.95 g | C(C)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1CC | C17H18O
reactant | diethylcyanomethylphosphonate | 4.4 mmol, 0.73 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 4.4 mmol, 1.3M, 3.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | hexane | CCCCCC | C6H14
product | 3-(3,4-Diethylphenyl)-3-phenylacrylonitrile | C(C)C=1C=C(C=CC1CC)C(=CC#N)C1=CC=CC=C1 | C19H19N
